US08629137B2
3-[6′-amino-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
0.50 mL TFA were added to 57 mg (0.10 mmol) tert-butyl[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl]-carbamate in 5.00 mL DCM and stirred for 3 h at RT. Then another 0.50 mL TFA were added and the mixture was stirred overnight at RT. Then the reaction mixture was evaporated down, the residue was dissolved in DMF and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | TFA | 0.50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl]-carbamate | 0.10 mmol, 57 mg | C(C)(C)(C)OC(NC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C)=O | C35H40N6O7
reactant | TFA | 0.50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5.00 mL | C(Cl)Cl | CH2Cl2
product | 3-[6′-amino-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | NC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C30H32N6O5
